US07199239B2
[4-({(2-Cyclopropylethyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetic acid
To a solution of ethyl [4-({(2-cyclopropylethyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate (141 mg, 0.28 mmol) in MeOH (2 mL) and THF (2 mL) at room temperature was added 2M NaOH (1 mL, 2 mmol). The resultant mixture was stirred for 1.5 h, then the solvents were removed in vacuo. The residue was partitioned between CH2Cl2 (2×20 mL) and 2M HCl (20 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed, affording the title compound as a white solid (115 mg).

reactant | ethyl [4-({(2-cyclopropylethyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate | 0.28 mmol, 141 mg | C1(CC1)CCN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C30H32F3NO3
reactant | NaOH | 2 mmol, 2M, 1 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [4-({(2-Cyclopropylethyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetic acid | 115 mg | C1(CC1)CCN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)O)C=C1)C | C28H28F3NO3
